US04732912
A solution of 1-(10-bromodecyl)-5-methoxy-2-p-methoxyphenylind-1-ene (0.24 g.) in dimethylformamide (1 ml.) was added to a stirred solution of hexanethiol (0.07 g.) and sodium hydride (0.029 g. of a 50% dispersion in mineral oil from which the oil had been washed with petroleum ether) in dimethylformamide which had been stirred at laboratory temperature under an atmosphere of argon for 15 minutes, and the mixture was heated at 60° C. for 2 hours, cooled and water (5 ml.) was added. The mixture was extracted 3 times with ethyl acetate (5 ml. each time) and the combined extracts were washed with water, dried and evaporated to dryness. The residue was purified by chromatography on a silica gel column using a 1:1 v/v mixture of toluene and petroleum ether (b.p. 60°-80° C.) as eluant. The methoxy groups were removed by treatment with boron tribromide in a similar manner to that decribed in Example 7, and the residue was purified by chromatography on a silica gel column using a 9:1 v/v mixture of toluene and ethyl acetate as eluant. There was thus obtained as an oil 1-(10-hexylthiodecyl)-2-p-hydroxyphenylind-1-en-5-ol, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | 1-(10-bromodecyl)-5-methoxy-2-p-methoxyphenylind-1-ene | 0.24 g | BrCCCCCCCCCCC1=C(CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C27H35BrO2
reactant | hexanethiol | 0.07 g | C(CCCCC)S | C6H14S
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(10-hexylthiodecyl)-2-p-hydroxyphenylind-1-en-5-ol | C(CCCCC)SCCCCCCCCCCC1=C(CC2=CC(=CC=C12)O)C1=CC=C(C=C1)O | C31H44O2S
